US09315530B2
Step 1: diethyl (2-(2-(2-(2-((2-chloro-3-nitroquinolin-4-yl)amino)ethoxy)ethoxy)ethoxy)ethyl)phosphonate
To a solution of commercially available 2,4-dichloro-3-nitroquinoline (1 equiv.) in triethyl amine (0.30 M) was added commercially available diethyl (2-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)ethyl)phosphonate (1.3 equiv.) (provided by PHARMARON). The resulting reaction mixture was stirred at 70° C. for 2 h. At this point the volatiles were removed in vacuo. The resulting residue was purified by a COMBIFLASH™ system using a gradient of 0-5% MeOH/DCM to provide the title compound (63%) as a solid.

reactant | 2,4-dichloro-3-nitroquinoline | 1 equiv. | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | diethyl (2-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)ethyl)phosphonate | 1.3 equiv. | NCCOCCOCCOCCP(OCC)(OCC)=O | C12H28NO6P
solvent | triethyl amine | 0.30 M | C(C)N(CC)CC | C6H15N
product | diethyl (2-(2-(2-(2-((2-chloro-3-nitroquinolin-4-yl)amino)ethoxy)ethoxy)ethoxy)ethyl)phosphonate | 63% | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCOCCOCCOCCP(OCC)(OCC)=O | C21H31ClN3O8P
